US04301280
Phenyl 1-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-1-(p-nitrobenzyloxycarbonyl)-prop-1-en-2-yl phenylphosphonate
To a stirred solution of p-nitrobenzyl α-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-α-(1-hydroxyethylidene)acetate (4.69 g) in tetrahydrofuran (60 ml.) under a nitrogen atmosphere at 0° C. was added triethylamine (1.6 ml.) followed by phenyl phenylphosphonochloridate (2.91 g). After stirring for 3 hours at 20° C., the tetrahydrofuran was evaporated and the residue dissolved in dichloromethane. The resulting solution was washed with 1% hydrochloric acid and then water, dried with magnesium sulphate and evapoated to give the title compound as a pale yellow friable foam in essentially quantitative yield. TLC (silica)Rf 0.64 (ethyl acetate). NMR δCDCl3 2.60 (m, 3H), 3.70-4.67 (m, 2H), 5.15 (s, 2H), 5.57-5.87 (m, 2H) and 6.6-8.17 (m, 19H).

reactant | p-nitrobenzyl α-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-α-(1-hydroxyethylidene)acetate | 4.69 g | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)O)=O | C22H19N3O7S
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl phenylphosphonochloridate | 2.91 g | C1(=CC=CC=C1)P(OC1=CC=CC=C1)(=O)Cl | C12H10ClO2P
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | Phenyl 1-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-1-(p-nitrobenzyloxycarbonyl)-prop-1-en-2-yl phenylphosphonate | quantitative yield | C1(=CC=CC=C1)P(OC1=CC=CC=C1)(OC(=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C2SC(=NC2C1=O)COC1=CC=CC=C1)C)=O | C34H28N3O9PS
